US06677349B1
A suspension of 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 2.0 mmol) in pyridine (250 mL) was warmed to 60° C. to dissolve the amine. The solution was allowed to cool to about 30° C. and then 5-dimethylamino-1-naphthalenesulfonyl chloride (0.5 g, 1.8 mmol) was slowly added. After 1 hour 0.3 g of 5-dimethylamino-1-naphthalenesulfonyl chloride was added. The reaction mixture was warmed to 60° C. and maintained at that temperature overnight. The reaction mixture was concentrated under vacuum. The residue was recrystallized from propyl acetate to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-5-(dimethylamino)-1-naphthalenesulfonamide as a solid, m.p. 200-201° C.

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.0 mmol, 0.5 g | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 5-dimethylamino-1-naphthalenesulfonyl chloride | 1.8 mmol, 0.5 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | 5-dimethylamino-1-naphthalenesulfonyl chloride | 0.3 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-5-(dimethylamino)-1-naphthalenesulfonamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNS(=O)(=O)C2=CC=CC1=C(C=CC=C21)N(C)C | C26H28N6O2S
